US05356752
2nd stage: Preparation of 2,3-bis-tert.-butoxycarbonyloxy-benzaldehyde bis-(2-phenylethyl)-acetal
An amount of 1.43 g (3.73 mmol) of 2,3-bis-tert.-butoxycarbonyloxy-benzaldehyde dimethylacetal was dissolved in 40 ml of dried toluene. After the addition of 0.91 g (7.46 mmol) of 2-phenylethanol and 18 mg of potassium hydrogen sulfate, the resulting mixture was stirred for 1 hour under reflux. The methanol formed was then distilled off slowly, while more toluene was added to the mixture. After complete removal of the methanol, the mixture was cooled down and the potassium hydrogensulfate was filtered off. The filtrate was concentrated in a rotary evaporator. This gave a yellowish, viscous oil which was dried in an oil pump vacuum.

reactant | 2,3-bis-tert.-butoxycarbonyloxy-benzaldehyde dimethylacetal | 3.73 mmol, 1.43 g | COC(C1=C(C(=CC=C1)OC(=O)OC(C)(C)C)OC(=O)OC(C)(C)C)OC | C19H28O8
reactant | 2-phenylethanol | 7.46 mmol, 0.91 g | C1(=CC=CC=C1)CCO | C8H10O
reactant | potassium hydrogen sulfate | 18 mg | S(=O)(=O)(O)[O-].[K+]
reactant | methanol | CO | CH4O
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 2,3-bis-tert.-butoxycarbonyloxy-benzaldehyde bis-(2-phenylethyl)-acetal | C1(=CC=CC=C1)CCOC(C1=C(C(=CC=C1)OC(=O)OC(C)(C)C)OC(=O)OC(C)(C)C)OCCC1=CC=CC=C1 | C33H40O8
